US06380215B1
To a mixture of N-[(R)-1-{3-(1-tert-butoxycarbonyl-4-piperidyl)propionyl}-3-piperidylcarbonyl]-3(S)ethynyl-β-alanine (0.63 g), 4-(trifluoromethyl)benzyl alcohol (0.23 ml) and N,N-dimethylaminopyridine (18 mg) in dichloromethane (7 ml) was added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.32 g) under stirring at 0° C. After stirring at ambient temperature for overnight, the solution was evaporated in vacuo. The residue was poured into water and extracted with ethyl acetate. The extract was washed with saturated aqueous NaHCO3 solution, water and brine, and dried over MgSO4, and evaporated in vacuo. The residue was purified by column chromatography on silica gel eluting with (CHCl3:MeOH=100:1) to give N-[(R)-1-{3-(1-tert-butoxycarbonyl-4-piperidyl)propionyl}-3-piperidylcarbonyl]-3(S)-ethynyl-β-alanine 4-trifluoromethylbenzyl ester (0.71 g) as an oil.

reactant | N-[(R)-1-{3-(1-tert-butoxycarbonyl-4-piperidyl)propionyl}-3-piperidylcarbonyl]-3(S)ethynyl-β-alanine | 0.63 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CCC(=O)N1C[C@@H](CCC1)C(=O)N[C@@H](CC(=O)O)C#C | C24H37N3O6
reactant | 4-(trifluoromethyl)benzyl alcohol | 0.23 ml | FC(C1=CC=C(CO)C=C1)(F)F | C8H7F3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.32 g | Cl.C(C)N=C=NCCCN(C)C
solvent | dichloromethane | 7 ml | ClCCl | CH2Cl2
product | N-[(R)-1-{3-(1-tert-butoxycarbonyl-4-piperidyl)propionyl}-3-piperidylcarbonyl]-3(S)-ethynyl-β-alanine 4-trifluoromethylbenzyl ester | 0.71 g | FC(C1=CC=C(COC(C[C@H](NC(=O)[C@H]2CN(CCC2)C(CCC2CCN(CC2)C(=O)OC(C)(C)C)=O)C#C)=O)C=C1)(F)F | C32H42F3N3O6
